US05218009
Preparation of Benzyl-butyl-(2,6-dimethoxybenzoyl)phosphin oxide
To a solution of 13.2 g (0.067 mol) of benzyl-butylphosphin oxide and 12.7 ml (0.101 mol) of trimethylchlorosilane in 100 ml of tetrahydrofuran are added 18.7 ml (0.134 mol) of triethylamine under a nitrogen atmosphere at 0°-5° C. in the course of 15 minutes. After 2 hours of stirring at 0°-5° C., 13.5 g (0.067 mol) of 2,6-dimethoxybenzoyl chloride, diluted in 50 ml of tetrahydrofuran, are added during the course of 20 min. the stirring at 0°-5° C. is continued for 2 h, then the solution is allowed to warm to room temperature and filtered over silicea gel. The solution is concentrated in vacuo and the residue recrystallized from a hexan/acetic acid ester mixture. 3.8 g (15.8% of theory) of the title compound with a melting point of 56°-57° C. are obtained.

reactant | benzyl-butylphosphin oxide | 0.067 mol, 13.2 g | C(C1=CC=CC=C1)P(CCCC)=O | C11H17OP
reactant | trimethylchlorosilane | 0.101 mol, 12.7 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 0.134 mol, 18.7 ml | C(C)N(CC)CC | C6H15N
reactant | 2,6-dimethoxybenzoyl chloride | 0.067 mol, 13.5 g | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Benzyl-butyl-(2,6-dimethoxybenzoyl)phosphin oxide | C(C1=CC=CC=C1)P(C(C1=C(C=CC=C1OC)OC)=O)(CCCC)=O | C20H25O4P
